US04699992
3-Dimethylamino-2-(2,3,4,5-tetrafluorobenzoyl)acrylonitrile
First 9.7 g of 3-dimethylaminoacrylonitrile are added dropwise, then 10.5 g of triethylamine are added to a solution of 21.25 g of 2,3,4,5-tetrafluorobenzoyl chloride in 75 ml of anhydrous dioxane, while cooling in ice and stirring at about 10°-15° C. The mixture is heated to boiling under reflux for 4 hours, the solvent is removed by distillation in vacuo, and the residue is taken up in methylene chloride/water. The phases are separated, and the aqueous solution is again extracted with methylene chloride. The combined organic phases are washed with water, dried with sodium sulphate, and the methylene chloride is removed in vacuo. After recrystallization of the crystalline residue from ethanol, 23.5 g of 3-dimethylamino-2-(2,3,4,5-tetrafluorobenzoyl)acrylonitrile of melting point 149°-151° C. are obtained.

reactant | 3-dimethylaminoacrylonitrile | 9.7 g | CN(C=CC#N)C | C5H8N2
reactant | triethylamine | 10.5 g | C(C)N(CC)CC | C6H15N
reactant | 2,3,4,5-tetrafluorobenzoyl chloride | 21.25 g | FC1=C(C(=O)Cl)C=C(C(=C1F)F)F | C7HClF4O
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | 3-Dimethylamino-2-(2,3,4,5-tetrafluorobenzoyl)acrylonitrile | CN(C=C(C#N)C(C1=C(C(=C(C(=C1)F)F)F)F)=O)C | C12H8F4N2O
